US07977370B2
2-[2-(1H-indol-3-yl)-ethyl]-1,2,3,4-tetrahydroisoquinoline
A solution of 3-(2-bromo-ethyl)-1H-indole (4.48 g, 20 mmol) and isoquinoline (5.33 g, 40 mmol) in abs. dioxan (50 mL) was stirred for 6 h at 80° C. The solvent was then removed in a vacuum, the residue mixed with CHCl3 (100 mL) and washed twice with water. The organic phase was dried over Na2SO4, concentrated to low volume in a vacuum, and the remaining residue purified by flash chromatography with CHCl3/MeOH (50:1).

reactant | 3-(2-bromo-ethyl)-1H-indole | 20 mmol, 4.48 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | isoquinoline | 40 mmol, 5.33 g | C1=NC=CC2=CC=CC=C12 | C9H7N
solvent | dioxan | 50 mL | O1CCOCC1 | C4H8O2
product | 2-[2-(1H-indol-3-yl)-ethyl]-1,2,3,4-tetrahydroisoquinoline | N1C=C(C2=CC=CC=C12)CCN1CC2=CC=CC=C2CC1 | C19H20N2
